US06169080A
Camptothecin (25 g) in concentrated sulfuric acid (500 mL) was cooled in an ice-bath. To it was then added 70% nitric acid (30 mL), drop-wise to control the reaction temperature. The reaction mixture was then stirred for 36 hours, poured into excess crushed ice and the organic portion was extracted out using chloroform. The combined organic fraction was washed with freshly prepared 10% sodium bicarbonate solution and brine, and then dried over anhydrous sodium sulfate. Solvent was removed and the residue was purified by flash silica gel column using hexane/ethyl acetate (1:1) as eluent to furnish 2.7 g of 9-nitrocamptothecin.

reactant | Camptothecin | 25 g | CC[C@@]1(C2=C(COC1=O)C(=O)N3CC=4C=C5C=CC=CC5=NC4C3=C2)O | C20H16N2O4
reactant | nitric acid | 30 mL | [N+](=O)(O)[O-] | HNO3
solvent | sulfuric acid | 500 mL | S(O)(O)(=O)=O | H2O4S
product | 9-nitrocamptothecin | 2.7 g | CC[C@@]1(C2=C(COC1=O)C(=O)N3CC4=C(C3=C2)N=C5C=CC=C(C5=C4)[N+](=O)[O-])O | C20H15N3O6
